US07683064B2
To a stirred solution of the crude N-[5-Bromo-1-difluoromethyl-1H-pyridin-(2E)-ylidene]-acetamide (1 g) in 10 ml CH3CN was added 1% KHSO4 in water (10 ml). The reaction mixture was heated at reflux for 3 hrs. The reaction mixture was cooled down and the solvent was removed under reduced pressure. Without any workup this crude was purified by column chromatography using 10% ethyl acetate in hexane to get 5-Bromo-1-difluoromethyl-1H-pyridin-2-one (550 mg, 52%).

reactant | N-[5-Bromo-1-difluoromethyl-1H-pyridin-(2E)-ylidene]-acetamide | 1 g | BrC=1C=C/C(/N(C1)C(F)F)=N\C(C)=O | C8H7BrF2N2O
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | CH3CN | 10 ml | CC#N | C2H3N
solvent | water | 10 ml | O | H2O
product | 5-Bromo-1-difluoromethyl-1H-pyridin-2-one | 550 mg, 52% | BrC=1C=CC(N(C1)C(F)F)=O | C6H4BrF2NO
